US06562849B1
1-(2,4-Difluorophenyl)-3-[2-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]urea (exemplification compound number 1-174)
To a mixture of 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.3 g), triethylamine (65 mg) and anhydrous N,N-dimethylformamide (5 ml) was added 2,4-difluorophenyl isocyanate (81 mg) and the mixture was stirred at room temperature for 4.5 hours and then allowed to stand for 2 days. The reaction mixture was concentrated and diluted with water and tetrahydrofuran and then extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. To the residue was added ethyl acetate and the precipitate was isolated by filtration and washed with ethyl acetate to afford the title compound (0.2 g, mp 161-164° C.).

reactant | 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.3 g | Cl.Cl.NCCC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | triethylamine | 65 mg | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorophenyl isocyanate | 81 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-Difluorophenyl)-3-[2-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]urea | 0.2 g | FC1=C(C=CC(=C1)F)NC(=O)NCCC1=CC=C(C=C1)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C)C1 | C34H29F2N5O5S
